US09284331B2
Step 2: (R)-2-(4-(1-methoxyethyl)-1H-imidazol-1-yl)-9-(prop-1-en-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 118. A solution of 9-(prop-1-en-2-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (275 mg, 1.03 mmol) in DCE (20 mL) was treated with POCl3 (0.29 mL, 3.07 mmol) and the mixture was heated to 100° C. for 1 h. The mixture was then allowed to cool to RT, diluted with DCM and washed with H2O. The org. phase was then dried over Na2SO4, filtered and concentrated in vacuo. The residue obtained was taken up in DCE (20 mL) and (R)-4-(1-methoxyethyl)-1H-imidazole (200 mg, 1.59 mmol) and pyridine (0.17 mL, 2.05 mmol) were then added. The mixture was heated to 110° C. for 1 h, and then allowed to cool to RT, diluted with DCM and washed with H2O. The org. layer was then dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, heptane to AcOEt to AcOEt/MeOH 85:15) and SFC (column: 4-Ethylpyridine 5 μm, 250×30 mm, 60 A, Princeton; eluent: 6% MeOH/CO2 for 1 min, then from 6% MeOH/CO2 to 11% MeOH/CO2 in 6 min; then from 11% MeOH/CO2 to 50% MeOH/CO2 in 1 min; flow 100 mL/min; UV detection at 220 nm) gave the title compound (60 mg). UPLC-MS: MS 377.2 (M+H+); UPLC rt 1.02 min. 1H NMR (400 MHz, DMSO-d6): δ ppm 1.35 (d, J=5.87 Hz, 3 H); 2.01 (s, 3 H); 2.90 (t, J=5.87 Hz, 2 H); 3.14 (s, 3 H); 3.75 (t, J=6.06 Hz, 2 H); 4.16-4.33 (m, 3 H); 4.85 (s, 1 H); 5.29 (s, 1 H); 7.12 (s, 1 H); 7.27-7.40 (m, 2 H); 7.57 (s, 1 H); 7.90 (d, J=7.82 Hz, 1 H); 8.18 (s, 1 H).

reactant | 9-(prop-1-en-2-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 1.03 mmol, 275 mg | C=C(C)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H16N2O2
reactant | POCl3 | 3.07 mmol, 0.29 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | (R)-4-(1-methoxyethyl)-1H-imidazole | 1.59 mmol, 200 mg | CO[C@H](C)C=1N=CNC1 | C6H10N2O
reactant | pyridine | 2.05 mmol, 0.17 mL | N1=CC=CC=C1 | C5H5N
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | (R)-2-(4-(1-methoxyethyl)-1H-imidazol-1-yl)-9-(prop-1-en-2-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 60 mg | CO[C@H](C)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C(=C)C)=C1)=O | C22H24N4O2
